US04675325
To generate indolizidine alcohol and aldehyde intermediates useful in the synthesis of pumiliotoxin B, it is necessary to assemble a chiral silylalkyne from esters of (S)-5-(benzyloxy)-1-trimethyl-silyl-1-pentyn-3-ol. This involves the reduction of 3-(benzyloxy)propanitrile, the latter reagent being prepared from acrylonitrile and benzyl alcohol as described by Gaiffe and Launay in Academy of Science, Serial C, Pages 1379-1380 (1968), with i-Bu2AlH to give 3-benzyloxy propanal which is condensed with ethynyllithium, prepared as described by Midland in the Journal of Organic Chemistry, Volume 40, Page 2250 (1975), to yield the racemic propargylic alcohol in about 50% yield following distillation. Reaction of the propargylic alcohol with R-(+)-2-methylbenzylamine gives the corresponding diastereomeric carbamates that upon chromatographic separation and carbamate cleavage with Cl3SiH as described by Pirkle in the Journal of Organic Chemistry, Volume 42, Page 2781 (1971) yields the (S)-alcohol and (R)-alcohol derivatives in yields of about 20%.

reactant | pumiliotoxin B | C[C@H]([C@@H](/C(=C/CC(C)/C=C\1/C[C@]([C@@H]2CCCN2C1)(C)O)/C)O)O | C19H33NO3
reactant | 3-(benzyloxy)propanitrile | C1=CC=C(C=C1)COCCC#N | C10H11NO
reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
reactant | i-Bu2AlH | [AlH](CC(C)C)CC(C)C
product | 3-benzyloxy propanal | C(C1=CC=CC=C1)OCCC=O | C10H12O2
